US05817815
a) (R)-1-(3-chlorophenyl)-3-methyl-piperazin-2-one (formula V, Alk=CH3)
A solution of 18.4 g (0.108 moles) of N-(3-chlorophenyl)-ethanediamine (J. Med. Chem., 9, 858-860 (1966)), 19.3 ml (0.119 moles) of (S)-methanesulfonyl-lactic acid ethyl ester and 22.8 ml (0.163 moles) of triethylamine in 200 ml of toluene was boiled and refluxed overnight.

reactant | N-(3-chlorophenyl)-ethanediamine | 0.108 moles, 18.4 g | ClC=1C=C(C=CC1)NC(C)N | C8H11ClN2
reactant | (S)-methanesulfonyl-lactic acid ethyl ester | 0.119 moles, 19.3 ml | C(C)OC([C@](O)(C)S(=O)(=O)C)=O | C6H12O5S
reactant | triethylamine | 0.163 moles, 22.8 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-1-(3-chlorophenyl)-3-methyl-piperazin-2-one | ClC=1C=C(C=CC1)N1C([C@H](NCC1)C)=O | C11H13ClN2O
